US06043334
(Naphthalene type-radical crosslinking type)
A laminate-type organic electrophotographic photoreceptor was produced in the same manner and in the same ratios of starting materials as in Example 24 except that (PC-1) was replaced by (PC-2), MXDA by azobisisobutylonitrile (AIBN), and the conditions of the reaction after the drying were changed to 120° C., 1 hour.

reactant | PC-2 | CC1=C(CC(C(C1)(C)Cl)Cl)/C=C/Cl | C10H13Cl3
reactant | MXDA | C1=CC(=CC(=C1)CN)CN | C8H12N2
reactant | azobisisobutylonitrile | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | Naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
